US08703758B2
E) tert-butyl({4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)diphenylsilane
A solution of tert-butyl [(4-ethynylcyclohexyl)oxy]diphenylsilane (3.52 g), 5-(cyclopropylmethoxy)-2-iodophenol (2.82 g), bis(triphenylphosphine)palladium(II) dichloride (0.34 g), copper iodide (0.09 g) and 1,1,3,3-tetramethylguanidine (3.65 mL) in DMF (30 mL) was stirred at room temperature overnight under an argon atmosphere. The reaction mixture was extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (3.36 g).

reactant | tert-butyl [(4-ethynylcyclohexyl)oxy]diphenylsilane | 3.52 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1CCC(CC1)C#C | C24H30OSi
reactant | 5-(cyclopropylmethoxy)-2-iodophenol | 2.82 g | C1(CC1)COC=1C=CC(=C(C1)O)I | C10H11IO2
reactant | 1,1,3,3-tetramethylguanidine | 3.65 mL | CN(C(=N)N(C)C)C | C5H13N3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.34 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.09 g | [Cu](I)I
product | tert-butyl({4-[6-(cyclopropylmethoxy)-1-benzofuran-2-yl]cyclohexyl}oxy)diphenylsilane | 3.36 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1CCC(CC1)C=1OC2=C(C1)C=CC(=C2)OCC2CC2 | C34H40O3Si
